US05185351
(i) 2-butyl-5-hydroxymethyl-4-iodoimidazole
N-Iodosuccinimide (148.75 g, 0.661 mol) was added to a stirred solution of 2-butyl-4-hydroxymethylimidazole (100.78 g, 0.652 mol) in 500 mL of absolute ethanol. After 20 minutes the solution was heated to 40°-45° C. for 45 minutes, diluted with 2.5 liters of water, and chilled. The crystalline product was collected by filtration, washed with water, and dried to give 174.5 g (95%) of crystals; mp 166°-166.5° C.

reactant | N-Iodosuccinimide | 0.661 mol, 148.75 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-butyl-4-hydroxymethylimidazole | 0.652 mol, 100.78 g | C(CCC)C=1NC=C(N1)CO | C8H14N2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 2.5 liters | O | H2O
product | 2-butyl-5-hydroxymethyl-4-iodoimidazole | 174.5 g, 95% | C(CCC)C=1NC(=C(N1)I)CO | C8H13IN2O
